US08049016B2
Preparation of 2-(3-((2,2-difluorocyclopropyl)methyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid
To a solution of ethyl 2-(3-((2,2-difluorocyclopropyl)methyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylate (0.77 g, 2.24 mmol) in tetrahydrofuran (40.0 mL) was added lithium hydroxide monohydrate (0.27 g, 11.2 mmol) in water (2.0 mL). The reaction mixture was heated at reflux for 16 h, cooled to an ambient temperature, then acidified with a solution of hydrochloric acid (3.0 N, 10.0 mL). The solvent was removed in vacuo to dryness and the precipitate was filtered, dried to afford the title compound as a colourless solid (0.49 g, 68%): mp 210-215° C.; 1H NMR (300 MHz, DMSO-d6) δ 12.79 (br, 1H), 3.99 (t, J=9.0 Hz, 2H), 3.64-3.48 (m, 3H), 3.19-3.12 (m, 1H), 2.46 (s, 3H), 2.02-1.88 (m, 1H), 1.67-1.55 (m, 1H), 1.37-1.26 (m, 1H); 13C NMR (75 MHz, DMSO-d6) δ 164.0, 159.8, 156.0, 155.2, 115.2, 114.9 (t), 42.4, 42.1, 41.1 (d), 20.3 (t, 2JC-F=43 Hz), 17.4, 14.9 (t, 2JC-F=43 Hz); MS (ES+) m/z 318.0 (M+1).

reactant | ethyl 2-(3-((2,2-difluorocyclopropyl)methyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylate | 2.24 mmol, 0.77 g | FC1(C(C1)CN1C(N(CC1)C=1SC(=C(N1)C)C(=O)OCC)=O)F | C14H17F2N3O3S
reactant | lithium hydroxide monohydrate | 11.2 mmol, 0.27 g | O.[OH-].[Li+]
reactant | hydrochloric acid | 3.0 N, 10.0 mL | Cl | ClH
solvent | tetrahydrofuran | 40.0 mL | O1CCCC1 | C4H8O
solvent | water | 2.0 mL | O | H2O
product | 2-(3-((2,2-difluorocyclopropyl)methyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | 0.49 g, 68% | FC1(C(C1)CN1C(N(CC1)C=1SC(=C(N1)C)C(=O)O)=O)F | C12H13F2N3O3S
